US08729274B2
20.3 cis-6-(Difluoromethyl)-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride
cis-2-Benzyl-6-(difluoromethyl)-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.070 mmol, 23 mg) was dissolved in toluene (1 ml) and ACE-Cl (0.492 mmol, 0.054 ml, 70.3 mg) was added. The reaction mixture was heated to 160° C. for 15 minutes in a microwave reactor. MeOH (1 ml) was added and the reaction mixture was heated for a further 5 minutes at 160° C. in a microwave reactor and then the resulting solution was passed through an SCX cartridge. The fractions containing the desired product were concentrated in vacuo and then purified by silica column chromatography (eluting with DCM then 2-16% MeOH(NH3) in DCM) to give a crude residue that was dissolved in DCM and 2N HCl in ether (1 ml) was added. The solvent was removed in vacuo to afford cis-6-(difluoromethyl)3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride (13 mg), m/z: 238.3 [M+H]+.

reactant | cis-2-Benzyl-6-(difluoromethyl)-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.070 mmol, 23 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3C(F)F)C | C21H23F2N
reactant | ACE-Cl | 0.492 mmol, 0.054 ml, 70.3 mg | CC(OC(=O)Cl)Cl | C3H4Cl2O2
reactant | MeOH | 1 ml | CO | CH4O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | cis-6-(Difluoromethyl)-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride | Cl.FC(C1=CC=CC=2[C@H]3CNC[C@]3(CCC21)C)F | InChI=1S/C14H17F2N.ClH/c1-14-6-5-9-10(12(14)7-17-8-14)3-2-4-11(9)13(15)16;/h2-4,12-13,17H,5-8H2,1H3;1H/t12-,14-;/m1./s1
